US07612075B2
A. 4-Benzyloxycarbonyl-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one.
To a solution of 4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one (1.15 g, 3.74 mmol) in 10 ml of DMF is added at 0° C. sodium hydride (164 mg at 60% in oil, 4.12 mmol). The solution is stirred 10 minutes then 2-(benzhydrylidene-amino)-4-bromomethyl-benzonitrile (2.6 g at 52%, 3.74 mmol) in 25 ml of DMF is added dropwise. The resulting mixture is stirred for 20 hours at room temperature, diluted with ethyle acetate, washed with water, with a saturated aqueous NaHCO3 solution, brine. The solution is dried over MgSO4, concentrated. The resulting crude product is purified by column chromatography on silica gel eluting with 2% MeOH:CH2Cl2. The title compound (1.8 g, 80% yield) is obtained as a viscous oil.

reactant | 4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one | 3.74 mmol, 1.15 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(NCC1)=O)CCSC | C15H20N2O3S
reactant | sodium hydride | 4.12 mmol, 164 mg | [H-].[Na+]
reactant | 2-(benzhydrylidene-amino)-4-bromomethyl-benzonitrile | 3.74 mmol, 2.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C#N)C=CC(=C1)CBr | C21H15BrN2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | acetate | C(C)(=O)[O-]
product | 4-Benzyloxycarbonyl-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one | 1.8 g, 80% yield | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCSC | C36H34N4O3S
